US07037921B2
N-[3-(3-Methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-benzamide
Combine 5-(3-aminomethyl-cyclohexyl)-3-methyl-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-4-one hydroiodide (136 mg, 0.31 mmol) with benzoic acid (42 mg, 0.34 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (65 mg, 0.34 mmol), 1-hydroxy-7-azabenzo-triazole (46 mg, 0.34 mmol), and N,N-diisopropylethyl amine (0.20 mL, 1.15 mmol), in N,N-dimethylformamide (4 mL) and stir over a weekend at ambient temperature. Concentrate in vacuo and take up in water and extract with dichloromethane. Dry over sodium sulfate and concentrate in vacuo. Elute over silica gel using methanol/dichloromethane to give 96 mg (74%) of the desired product as an off white solid. MS(ES): (M+1)+ 417.2, 418.2 m/z.

reactant | 5-(3-aminomethyl-cyclohexyl)-3-methyl-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-4-one hydroiodide | 0.31 mmol, 136 mg | I.NCC1CC(CCC1)N1C(C=2C(C3=CC=NC=C13)=NOC2C)=O
reactant | benzoic acid | 0.34 mmol, 42 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.34 mmol, 65 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzo-triazole | 0.34 mmol, 46 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethyl amine | 1.15 mmol, 0.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-[3-(3-Methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-benzamide | 96 mg, 74% | CC=1ON=C2C1C(N(C1=CN=CC=C21)C2CC(CCC2)CNC(C2=CC=CC=C2)=O)=O | C24H24N4O3
